US06777428B1
4-[3-(isopropylthioureido)benzoyl]-1-methylpiperidine
Following the example above and beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (25 mg, 0.115 mmol) and isopropyl isothiocyanate (133 μL, 1.401 mmol), 15.6 mg (43%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.115 mmol, 25 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | isopropyl isothiocyanate | 1.401 mmol, 133 μL | C(C)(C)N=C=S | C4H7NS
product | 4-[3-(isopropylthioureido)benzoyl]-1-methylpiperidine | 15.6 mg, 43% | C(C)(C)NC(NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1)=S | C17H25N3OS
